US05061706
To a suspension of 7.0 g (25.1 mmol) 4-ethoxalylaminophthalamide in 75 ml dry pyridine was gradually added 4.1 ml (44.8 mmol) phosphorus oxychloride. Stirring was continued at 25° C. for 30 min. The reaction mixture was poured into 300 ml ice-cooled 4N hydrochloric acid to give 4.7 g (77%) of 4-ethoxalylaminopthalonitrile. M.p. 193.7° C.

reactant | 4-ethoxalylaminophthalamide | 25.1 mmol, 7.0 g | C(=O)(C(=O)OCC)NC=1C=C(C(C(=O)N)=CC1)C(=O)N | C12H13N3O5
reactant | phosphorus oxychloride | 44.8 mmol, 4.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 4-ethoxalylaminopthalonitrile | 4.7 g, 77% | C(=O)(C(=O)OCC)NC=1C=C(C(C#N)=CC1)C#N | C12H9N3O3
